US07683064B2
4-Cyclopropyl-2-methylbenzoic acid (25.01 g, 142 mmol) and phosphorus pentachloride (32.84 g, 158 mmol) were charged into a 100 mL round bottom flask fitted with a stir bar, reflux condenser, and calcium chloride drying tube exhausted through a dilute aqueous solution of NaOH as a gas trap. Refluxed the mixture at a bath temperature of 120° for 2 hr. Removed the POCl3 byproduct by distillation at atmospheric pressure. Vacuum distilled the residue. Collected the fraction distilling at 116-118°/3 torr to obtain 4-cyclopropyl-2-methylbenzoyl chloride as a clear colorless liquid (26.39 g, 136 mmol). 1H NMR (300 MHz, chloroform-d) ppm 0.77-0.86 (m, 2H) 1.06-1.16 (m, 2H) 1.87-1.99 (m, 1H) 2.54 (s, 3H) 6.93-7.03 (m, 2H) 8.14 (d, J=8.29 Hz, 1H).

reactant | 4-Cyclopropyl-2-methylbenzoic acid | 142 mmol, 25.01 g | C1(CC1)C1=CC(=C(C(=O)O)C=C1)C | C11H12O2
reactant | phosphorus pentachloride | 158 mmol, 32.84 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-cyclopropyl-2-methylbenzoyl chloride | 136 mmol, 26.39 g | C1(CC1)C1=CC(=C(C(=O)Cl)C=C1)C | C11H11ClO
